US07429581B2
(iii) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-hydroxymethyl-1H-pyrazole-3-carboxylic acid [4-(3-oxo-morpholin-4-yl)-phenyl]-amide
To 100 mg 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-hydroxymethyl-1H-pyrazole-3-carboxylic acid in 2 ml DCM and 0.1 ml NEt3, 67 mg 4-(4-Amino-phenyl)-morpholin-3-one and 74 mg BOP-Cl were added at RT and the mixture was stirred for 16 h. The mixture was concentrated under reduced pressure and triturated in a mixture of water/DMF. The precipitate was collected by filtration and washed with water containing 0.5% TFA. The product was obtained as a white solid which was dried under reduced pressure.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-hydroxymethyl-1H-pyrazole-3-carboxylic acid | 100 mg | ClC1=CC=C(S1)C1=CC(=NO1)CN1N=C(C=C1CO)C(=O)O | C13H10ClN3O4S
reactant | 4-(4-Amino-phenyl)-morpholin-3-one | 67 mg | NC1=CC=C(C=C1)N1C(COCC1)=O | C10H12N2O2
reactant | BOP-Cl | 74 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | NEt3 | 0.1 ml | CCN(CC)CC | C6H15N
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-hydroxymethyl-1H-pyrazole-3-carboxylic acid [4-(3-oxo-morpholin-4-yl)-phenyl]-amide | O=C1N(CCOC1)C1=CC=C(C=C1)NC(=O)C1=NN(C(=C1)CO)CC1=NOC(=C1)C=1SC(=CC1)Cl | C23H20ClN5O5S
